US09290467B2
(E)-(S)-19-Chloro-9-methyl-5-oxo-17-oxa-12-thia-4,10-diaza-tricyclo[16.2.2.0*6,11*]docosa-1(21),6,8,10,14,18(22),19-heptaene-3-carboxylic acid (1-cyano-cyclopropyl)-amide
The title compound was prepared in analogy to example 8 starting from 2-(allylthio)-6-methylnicotinic acid with the exception of the macroccyclisation: in a 10 mL round-bottomed flask, (S)—N-(3-(4-(allyloxy)-3-chlorophenyl)-1-(1-cyanocyclopropylamino)-1-oxopropan-2-yl)-2-(allylthio)-6-methylnicotinamide (50 mg, 97.8 μmol, Eq: 1.00) was combined with dry degassed DCM (50 mL) under argon atmosphere and titanium (IV) isopropoxide (16.7 mg, 17.2 μL, 58.7 μmol, Eq: 0.60) was added. This solution was added dropwise (20 min) to a solution of Grubbs II (24.9 mg, 29.4 μmol, Eq: 0.30) dissolved in dry degassed DCM (35 ml) under argon atmosphere at 50° C. (reflux). After the addition, the reaction mixture was heated to 50° C. and stirred for 3 days under argon atmosphere. The crude material was purified by flash chromatography (silica gel, 20 g, n-heptane/AcOEt 2/1, 1/1) to yield a brown solid (4 mg; 6%). m/z=483.0 [M+H]+.

reactant | 2-(allylthio)-6-methylnicotinic acid | C(C=C)SC1=C(C(=O)O)C=CC(=N1)C | C10H11NO2S
reactant | (S)—N-(3-(4-(allyloxy)-3-chlorophenyl)-1-(1-cyanocyclopropylamino)-1-oxopropan-2-yl)-2-(allylthio)-6-methylnicotinamide | 97.8 μmol, 50 mg | C(C=C)OC1=C(C=C(C=C1)C[C@@H](C(=O)NC1(CC1)C#N)NC(C1=C(N=C(C=C1)C)SCC=C)=O)Cl | C26H27ClN4O3S
catalyst | titanium (IV) isopropoxide | 58.7 μmol, 17.2 μL, 16.7 mg | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
catalyst | Grubbs II | 29.4 μmol, 24.9 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | (E)-(S)-19-Chloro-9-methyl-5-oxo-17-oxa-12-thia-4,10-diaza-tricyclo[16.2.2.0*6,11*]docosa-1(21),6,8,10,14,18(22),19-heptaene-3-carboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@@H]1CC=2C=C(C(OC/C=C/CSC3=NC(=CC=C3C(N1)=O)C)=CC2)Cl | C24H23ClN4O3S
